US04731368
Step C: Preparation of N,N-Dimethyl-N'-(7-acetoxythieno[2,3-c]pyridine-2-sulfonyl)formamidine
A mixture of N,N-dimethyl-N'-(6-oxido-thieno[2,3-c]pyridine-2-sulfonyl)formamidine (3.5 g, 12.3 mmol) in acetic anhydride (20 ml), under a nitrogen atmosphere, was heated at 120° C. for 3 hours. The dark solution was poured into ice/water and stirred for 1/2 hour. The product was extracted into methylene chloride, washed with sodium carbonate solution, dried over anhydrous sodium sulfate and evaporated to give 4.77 g of crude product. This residue was triturated with methylene chloride/diethyl ether to give 2.0 g (50% yield) of pure product. Recrystallization from ethyl acetate gave product with a broad melting point of 184°-191° C.

reactant | N,N-dimethyl-N'-(6-oxido-thieno[2,3-c]pyridine-2-sulfonyl)formamidine | 12.3 mmol, 3.5 g | CN(C=NS(=O)(=O)C1=CC=2C(=C[N+](=CC2)[O-])S1)C | C10H11N3O3S2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N,N-Dimethyl-N'-(7-acetoxythieno[2,3-c]pyridine-2-sulfonyl)formamidine | 2.0 g, 50% yield | CN(C=NS(=O)(=O)C1=CC=2C(=C(N=CC2)OC(C)=O)S1)C | C12H13N3O4S2
